data/rdb19/train.csv
rxn,smiles,ea
2001,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])=[C:15]([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:24])[H:8])([H:6])[H:7],28.17866532225161
3797,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])=[C:17]([H:18])[H:19])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([H:5])([H:6])([H:7])[H:25].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],74.19295593872084
2093,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:6][C:15]([C:13]([O:12][C:11]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])[H:7],27.690017013577744
2188,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:21]([O:22])[H:23]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[O:22][O:21][H:23])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:18])([H:19])[H:20],69.00219166747411
2773,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:13])[H:14])([H:10])([H:11])[H:12].[C:23]([H:36])([H:37])[H:38],68.7083049750072
3442,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:25])([H:9])[H:10])([H:6])([H:7])[H:8],23.62790891784244
5593,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13]([H:14])=[N:15][C:16](=[O:17])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])([H:8])[H:23])([H:6])[H:7],44.28487065550871
5105,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1([H:39])[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])([H:36])([H:37])[H:38],40.9044688368449
482,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:15])[H:16]>>[C:1]([O:2][O:3][H:17])([H:4])([H:5])[H:6].[C:7](=[C:8][c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:15])[H:16],29.70152065891307
5163,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])[C:8]([H:22])([H:37])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])[H:36])([H:33])([H:34])[H:35],41.68214653432369
1641,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([C:17]([O:16][C:15]([H:19])([H:20])[H:21])[H:22])([H:23])[H:24])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],16.257663890603
